US07253165B2
Synthesis of (R)-4-(4-chloro-phenyl)-1-{3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-2-hydroxy-propyl}-piperidin-4-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dimethylformamide and 4-(4-chlorophenyl)-4-hydroxypiperidine in ethanol, essentially as described above in Example 70. Purity by LC/MS=100%, [M+H]+=497.

reactant | (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | (R)-4-(4-chloro-phenyl)-1-{3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-2-hydroxy-propyl}-piperidin-4-ol | ClC1=CC=C(C=C1)C1(CCN(CC1)C[C@H](COC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)F)O)O | C27H26ClFN2O4
